US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-5-methylbenzene (680 mg, 4 mmol) and 2-amino-3,4-difluorothiophenol hydrochloride (888 mg, 4.5 mmol) and the resultant product was recrystallized from ethyl acetate-hexane to give 3-[(4,5-difluorobenzothiazol-2-yl)methyl]-5-methylphenylacetonitrile (210 mg, 17%) as a colorless powder.

reactant | 1,3-biscyanomethyl-5-methylbenzene | 4 mmol, 680 mg | C(#N)CC1=CC(=CC(=C1)C)CC#N | C11H10N2
reactant | 2-amino-3,4-difluorothiophenol hydrochloride | 4.5 mmol, 888 mg | Cl.NC1=C(C=CC(=C1F)F)S
product | 3-[(4,5-difluorobenzothiazol-2-yl)methyl]-5-methylphenylacetonitrile | 210 mg, 17% | FC1=C(C=CC2=C1N=C(S2)CC=2C=C(C=C(C2)C)CC#N)F | C17H12F2N2S
